US07214677B2
B: N-[2-(2-Chloro-phenyl)-ethyl]-5-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-2-methyl-benzamide
The title compound was prepared using the method outlined in Example 48, coupling 2-methyl-5-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-benzoic acid with 2-(ortho-chlorophenyl)ethylamine. The product was a colorless oil. MS (ES+) 385.2; (ES−) 383.2; LC retention time=2.1 min (using the LC/MS and method outlined for the examples in Table 1).

reactant | 2-methyl-5-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-benzoic acid | CC1=C(C(=O)O)C=C(C=C1)N1N=CC(NC1=O)=O | C11H9N3O4
reactant | 2-(ortho-chlorophenyl)ethylamine | ClC1=C(C=CC=C1)CCN | C8H10ClN
product | N-[2-(2-Chloro-phenyl)-ethyl]-5-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-2-methyl-benzamide | ClC1=C(C=CC=C1)CCNC(C1=C(C=CC(=C1)N1N=CC(NC1=O)=O)C)=O | C19H17ClN4O3
